US04165315
Preparation of p-Nitrobenzyl 3-Mehyl-2-(2-chlorosulfinyl-4oxo-3-acetamido-1-azetidinyl)-3-butenoate
Toluene (500 ml.) was heated in equipment containing a Dean-Stark water trap to azeotropically remove any moisture which may be present. To the resulting dried toluene was added 1.0 gms. (2.4 mmol.) of p-nitrobenzyl 6-azetamido-2,2-dimethylpenam-3-carboxylate-1-oxide. The resulting mixture was refluxed again using a Dean-Stark water trap to remove any additional amounts of water which may be present. The mixture then was cooled, and 400 mg. (2.9 mmol) of N-chlorosuccinimide were added. The mixture then was refluxed for 1 hour. A sample of the reaction mixture was withdrawn, and the solvent was removed. The product which was obtain was consistent by nmr analysis with the structure of the title compound.

reactant | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | p-nitrobenzyl 6-azetamido-2,2-dimethylpenam-3-carboxylate-1-oxide | 2.4 mmol | N1=C(C=C1)C(=O)NC1[C@@H]2N(C(C(S2=O)(C)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C19H18N4O7S
reactant | N-chlorosuccinimide | 2.9 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
product | p-Nitrobenzyl 3-Mehyl-2-(2-chlorosulfinyl-4oxo-3-acetamido-1-azetidinyl)-3-butenoate | CC(C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(C(C1=O)NC(C)=O)S(=O)Cl)=C | C17H18ClN3O7S
